US04048334
Into a three-necked flask equipped with a mechanical stirrer and a condenser, were introduced 70 ml of chloroform, 18 ml of concentrated sulphuric acid (d= 1.83) and 11 g (0.06 mol) of 2-ethyl-2-n-propylhexanoic acid prepared as described above. The mixture was heated to 50° C and while stirring 7.5 g of sodium azide in powder form were added. The operation of addition lasted 90 minutes after which the reaction mixture was heated to 50° C for 2 hours. The mixture was then neutralized with a 40% aqueous solution of sodium hydroxide previously cooled to 0° C. The amine was extracted with ether and the ethereal phase was washed with water and dried over magnesium sulphate. The ether was evaporated out under vacuum and the oil so obtained was taken up in dry ether, which provided 1-ethyl-1-n-propyl-n-pentylamine in free base form.

reactant | sulphuric acid | 18 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-ethyl-2-n-propylhexanoic acid | 0.06 mol, 11 g | C(C)C(C(=O)O)(CCCC)CCC | C11H22O2
reactant | sodium azide | 7.5 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-ethyl-1-n-propyl-n-pentylamine | C(C)C(CCCC)(CCC)N | C10H23N
